US07968746B2
Following the amide coupling procedure described in protocol A, 497 mg 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (1.98 mmol), 370 mg CDI (2.28 mmol) and 239 mg 5-aminopentanol (2.2 mmol) produced 468 mg of 6-hydroxy-N-(5-hydroxypentyl)-2,5,7,8-tetramethylchroman-2-carboxamide as a pale brown solid.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 1.98 mmol, 497 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 2.28 mmol, 370 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-aminopentanol | 2.2 mmol, 239 mg | NCCCCCO | C5H13NO
product | 6-hydroxy-N-(5-hydroxypentyl)-2,5,7,8-tetramethylchroman-2-carboxamide | 468 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCCCCCO)C)C | C19H29NO4
